US07691850B2
b) 10-vinyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline
To a solution of 10-Bromo-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline (0.8 g, 38.4 mmol, 1 eq) in toluene (15 mL) was added vinyltributyl tin (1.05 mL) and Pd(PPh3)4, (173 mg). The reaction was stirred under Argon for 18 hours at 130 C. The reaction was then cooled and evaporated to dryness. The solid obtained was passed through silica gel to obtain the title compound with as a pale yellow solid (0.50 g, 64%). LC/MS (ES) m/z 214.

reactant | 10-Bromo-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline | 38.4 mmol, 0.8 g, 1 eq | BrC1=CC=NC2=CC=C3C(=C12)OCCO3 | C11H8BrNO2
reactant | vinyltributyl tin | 1.05 mL | C(=C)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 15 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 173 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 10-vinyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline | C(=C)C1=CC=NC2=CC=C3C(=C12)OCCO3 | C13H11NO2
